US07579341B2
A8b) ethyl[4-(4-methyl-piperidin-4-yl)-piperazin-1-yl]-acetate
A suspension of 0.44 g (1.10 mmol) ethyl[4-(1-benzyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-acetate and 100 mg 10% Pd/C in 20 mL EtOH was hydrogenated for 12 h at 50° C. and 3447 hPa hydrogen pressure. The catalyst was filtered off and the filtrate was evaporated to dryness. The product was reacted further without purification.

reactant | ethyl[4-(1-benzyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-acetate | 1.10 mmol, 0.44 g | C(C)OC(CN1CCN(CC1)C1(CCN(CC1)CC1=CC=CC=C1)C)=O | C21H33N3O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | ethyl[4-(4-methyl-piperidin-4-yl)-piperazin-1-yl]-acetate | C(C)OC(CN1CCN(CC1)C1(CCNCC1)C)=O | C14H27N3O2
